US07282588B2
N,N-dimethyl-N′-[4-(2-methyl-5-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1,3-thiazol-4-yl)phenyl]urea
Following the procedure in Example 5a with 4-(2-methyl-5-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1,3-thiazol-4-yl)aniline and 2M dimethylamine in tetrahydrofuran provided the title compound. ESMS [M+H]+: 532.2

reactant | 4-(2-methyl-5-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1,3-thiazol-4-yl)aniline | CC=1SC(=C(N1)C1=CC=C(N)C=C1)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C24H20N4O2S2
reactant | dimethylamine | 2M | CNC | C2H7N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | N,N-dimethyl-N′-[4-(2-methyl-5-{1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1,3-thiazol-4-yl)phenyl]urea | CN(C(=O)NC1=CC=C(C=C1)C=1N=C(SC1C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)C)C | C27H25N5O3S2
